US04996211
Step A: preparation of 7-hydroxy-7-methyl-7H-benzo[4,5]cyclohepta[1,2-a]naphthalene.
To a solution of 7H-benzo[4,5]cyclohepta[1,2-a]naphthalen-7-one (1.75 g, prepared by the method of Bergmann et al, J. Org. Chem., 1963, 28, 3341) in dry tetrahydrofuran (40 ml) at 0° C. under nitrogen was added a solution of methyl lithium in diethyl ether (8 ml of 1.4M). After 90 minutes at 0° C. the reaction was quenched by the dropwise addition of water (20 ml) and the reaction mixture extracted into diethyl ether (2×75ml). dried (Na2SO4), filtered and the solvents removed under reduced pressure to give a light brown oil (1.9 g).

reactant | 7H-benzo[4,5]cyclohepta[1,2-a]naphthalen-7-one | C1=CC=CC=2C=CC3=C(C12)C=CC1=C(C3=O)C=CC=C1 | C19H12O
reactant | methyl lithium | C[Li]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 1.4M, 8 ml | C(C)OCC | C4H10O
product | 7-hydroxy-7-methyl-7H-benzo[4,5]cyclohepta[1,2-a]naphthalene | 1.9 g | OC1(C2=C(C=CC3=C1C=CC=1C=CC=CC31)C=CC=C2)C | C20H16O
